US04175089
Octene-1 in an amount of 2.24 g. and 11.65 g. of manganic acetate, Mn(C2H3O2)3.2H2O, (comprising two equivalents of Mn+3 based on titration value), were refluxed under nitrogen in 200 ml. propionic acid containing 20 g. potassium propionate. In less than an hour a good yield of alphamethyl-gamma-n-hexyl-butyrolactone was obtained.

reactant | Octene-1 | CCCCCCC=C | C8H16
reactant | propionic acid | 20 g | C(CC)(=O)O | C3H6O2
reactant | potassium propionate | C(CC)(=O)[O-].[K+]
product | alphamethyl-gamma-n-hexyl-butyrolactone | CC1C(=O)OC(C1)CCCCCC | C11H20O2
